US09414589B2
To a solution of 1-chloro-4-(cyclopropylidenemethyl)benzene (5 g, 30 mmol) in CH2Cl2 (80 ml) was added in 5 separate portions m-chloroperbenzoic acid (5.3 g, 30 mmol) at 0° C. After stirring at 0° C. for 3 h, the reaction mixture was washed with saturated NaHCO3 aqueous solution and brine, dried over Na2SO4 and concentrated. To the crude product in CH2Cl2 (40 ml) was added 10% HBF4 (11.6 ml 48% HBF4 and 46 ml H2O). After stirring at rt for 17 h, the mixture was extracted with CH2Cl2, washed with saturated NaHCO3 aq. solution and brine. The solvent was removed in vacuo, and the residue was purified by column chromatography on silica gel (eluent i-hexane, KMnO4 stain) to give 2-(4-chlorophenyl)cyclobutanone (3.470 g, 64%).

reactant | 1-chloro-4-(cyclopropylidenemethyl)benzene | 30 mmol, 5 g | ClC1=CC=C(C=C1)C=C1CC1 | C10H9Cl
reactant | m-chloroperbenzoic acid | 30 mmol, 5.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-chlorophenyl)cyclobutanone | 3.470 g, 64% | ClC1=CC=C(C=C1)C1C(CC1)=O | C10H9ClO
